US03962259
Reaction of 2-bromo-4-trifluoromethylbenzyl alcohol and 1-methyl-4-piperidone by the method described in Example 16a provides 4-hydroxy-4-(α-hydroxy-4-trifluoromethyl-2-tolyl)-1-methylpiperidine.

reactant | 2-bromo-4-trifluoromethylbenzyl alcohol | BrC1=C(CO)C=CC(=C1)C(F)(F)F | C8H6BrF3O
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
product | 4-hydroxy-4-(α-hydroxy-4-trifluoromethyl-2-tolyl)-1-methylpiperidine | OC1(CCN(CC1)C)C1=C(C=CC(=C1)C(F)(F)F)CO | C14H18F3NO2
